US04971967
A mixture of boric acid (1.1 g) and propionic anhydride (8.0 g) was stirred with heating at 75° to 80° C. for 50 minutes to give a solution of tripropionyloxyborane. Thereto was added ethyl 9,1-(methylimino)methano-7,8-difluoro-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylate (4.0 g, see Example 3) and the mixture was stirred under reflux for 40 minutes. The mixture was allowed to stand to be cooled to room temperature and the formed crystals were filtered off, washed with isopropyl ether and recrystallized from acetonitrile to give the title compound (5.1 g), m.p. around 256° C. (dec.).

reactant | boric acid | 1.1 g | B(O)(O)O | BH3O3
reactant | propionic anhydride | 8.0 g | C(CC)(=O)OC(CC)=O | C6H10O3
product | tripropionyloxyborane | C(CC)(=O)OB(OC(CC)=O)OC(CC)=O | C9H15BO6
